US08865712B2
f) (R)-2-[(RS)-2-Amino-2-(6-bromo-pyridin-2-yl)-propoxy]-3,3,3-trifluoro-2-methyl-propionitrile
A solution of [(RS)-1-(6-bromo-pyridin-2-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester (0.456 g, 1.008 mmol) and TFA (1.554 ml, 2.299 g, 20.17 mmol) in DCM (5 ml) was stirred at rt for 30 min, concentrated and triturated with 7N NH3/MeOH at rt for 20 min and again concentrated to give the title compound that was used for the next step without further purification. HPLC RtH4=0.69, 0.73 min (diastereomers); ESIMS: 352, 354 [(M+H)+].

reactant | [(RS)-1-(6-bromo-pyridin-2-yl)-2-((R)-1-cyano-2,2,2-trifluoro-1-methyl-ethoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 1.008 mmol, 0.456 g | C(C)(C)(C)OC(NC(CO[C@](C(F)(F)F)(C)C#N)(C)C1=NC(=CC=C1)Br)=O | C17H21BrF3N3O3
reactant | TFA | 20.17 mmol, 1.554 ml, 2.299 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-[(RS)-2-Amino-2-(6-bromo-pyridin-2-yl)-propoxy]-3,3,3-trifluoro-2-methyl-propionitrile | NC(CO[C@](C#N)(C(F)(F)F)C)(C)C1=NC(=CC=C1)Br | C12H13BrF3N3O
